US08067408B2
1,3-Dibromo-2-methylbenzene
A solution of (3,5-dibromo-4-methylphenyl)amine dissolved in water (80 mL) and concentrated HCl (7.5 mL) stirring for 20 min, then the mixture was cooled to 0˜5° C., and the solution of NaNO2 (3.4 g/30 mL H2O) was added. The reaction mixture was stirred for 2 h at 0˜5° C., then the suspension was added to hypophosphorous acid solution (50%, 27.9 g), which was cooled to 0° C. The mixture was stirred at room temperature overnight. Then it was extracted with CH2Cl2 (100 mL×2) and the combined organic layers were washed with brine (30 mL) and dried over Na2SO4. After silica column chromatography, (eluted with petroleum ether), 3.57 g product was obtained, as colorless liquid. 1H NMR (400 MHz, CDCl3): δ 2.57 (s, 3 H), 6.89 (t, J=8.0 Hz, 1 H), 7.50 (d, J=8.0 Hz, 2 H).

reactant | (3,5-dibromo-4-methylphenyl)amine | BrC=1C=C(C=C(C1C)Br)N | C7H7Br2N
reactant | HCl | 7.5 mL | Cl | ClH
reactant | NaNO2 | 30 mL, 3.4 g | N(=O)[O-].[Na+]
reactant | hypophosphorous acid | 27.9 g | [PH2](=O)O | H3O2P
solvent | water | 80 mL | O | H2O
product | 1,3-Dibromo-2-methylbenzene | BrC1=C(C(=CC=C1)Br)C | C7H6Br2
